Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Neomycin / Erythromycin Base / Keflex / Clindamycin
 
Attending: ___.
 
Chief Complaint:
Right BKA stump pallor/ pain

 
Major Surgical or Invasive Procedure:
___: Reoperative groin exposure of the right femoral 
artery. Thrombectomy of the right profunda and right iliac limb 
of 
the patient's aortobifemoral bypass with patch angioplasty. 

 
History of Present Illness:
___ with history of CAD, peripheral arterial disease sp 
Aortobifem, bilateral fem pop bypasses, R fem endart, and R BKA 
(___) complicated by an episode of stump ischemia requiring 
additional fem endarterectomy and R iliac stent now with 3 days 
of cool and painful RLE stump site.  

She states that at baseline she is ___ mobile with a 
prosthetic but three days ago developed pain and coolness in the 
stump site which has not resolved and is gradually worsening. 
She has no numbness, and her motor and sensation is intact. She 
states that it was gradual onset and cannot recall a specific 
event or time when it began.

 
Past Medical History:
Past Medical History: HTN, HLD, PVD

Past Surgical History:
ABF, R fem-akpop w PTFE ___, thrombectomy of ABF/R limb/R
fem-akpop bpg & rt. fem endartectomy ___, R fem-pt bpg
thrombectomy ___, R fem-pop thrombectomy ___, RABF limb
thrombectomy, expl of distal fem-pop graft, R fem-at bpg w
6mmmPTFE, L GSV exploration ___ 
redo R fem-pt w ptfe & takeback for thrombectomy ___,
hystrectomy (remote), R BKA ___

 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
Admission Physical Exam 

Vitals: AVSS 
GEN: A&O, NAD
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: Right BK stump with mild rubor discoloration cool compared
to left at similar area. R fem monophasic signal, nonpalpable.
Left fem biphasic signal, pop monophasic, at
monophasic and non dop pt. No ulcers or tissue loss.

Discharge Physical Exam 

VS: T 98.1, BP 137 / 84, HR 97, RR 20, O2 sat 96% (RA) 
GENERAL: [x]NAD  [x]A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2 
[]abnormal
PULM: []CTA b/l  [x]no respiratory distress  []abnormal
ABD: [x]soft  [x]Nontender  []appropriately tender 
[]nondistended  [x]no rebound/guarding  []abnormal
WOUND: [x]CD&I [x] Prevena vac in place with no drainage in 
cannister []no erythema/induration []abnormal
EXTREMITIES: [x]no CCE [x] R BKA stump warm []abnormal
PULSES: R: P/D/BKA   L: P/P/D/D/
 
Pertinent Results:
Admission Labs 

___ 03:00PM BLOOD WBC-10.3* RBC-4.29 Hgb-13.2 Hct-41.8 
MCV-97 MCH-30.8 MCHC-31.6* RDW-12.5 RDWSD-44.9 Plt ___
___ 03:00PM BLOOD Neuts-51.1 ___ Monos-8.0 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-5.25 AbsLymp-3.93* AbsMono-0.82* 
AbsEos-0.16 AbsBaso-0.06
___ 03:00PM BLOOD ___ PTT-34.3 ___
___ 03:00PM BLOOD Glucose-115* UreaN-16 Creat-0.8 Na-143 
K-3.7 Cl-103 HCO3-28 AnGap-12
___ 03:00PM BLOOD proBNP-128

Discharge Labs 

___ 05:58AM BLOOD WBC-11.0* RBC-3.32* Hgb-10.2* Hct-32.0* 
MCV-96 MCH-30.7 MCHC-31.9* RDW-12.9 RDWSD-45.6 Plt ___
___ 05:58AM BLOOD ___ PTT-36.5 ___
___ 05:58AM BLOOD Glucose-102* UreaN-6 Creat-0.6 Na-147 
K-4.5 Cl-103 HCO3-21* AnGap-23*
___ 05:58AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.7

CTA AORTA/BIFEM/ILIAC RUNOFF W (___) 

IMPRESSION: 
1. Status post aortobifemoral bypass and right-sided graft stent 
with complete 
occlusion of all the right-sided vessels extending from the 
bypass graft to 
the right lower extremity stump. 
2. Extensive atherosclerotic calcifications involving the Left 
lower extremity 
vessels with likely occlusion of the left superficial femoral 
artery.  Left 
peroneal artery appears patent.  However, the left anterior and 
posterior 
tibial arteries are highly calcified, limiting evaluation for 
patency. 
3. Left adnexal cystic lesion measuring 3.2 cm.  Nonemergent 
outpatient pelvic 
ultrasound is recommended for further evaluation. 
4. Likely minimal gallbladder sludge or stones within a 
nondistended 
gallbladder. 

 
Brief Hospital Course:
Patient is a ___ F with past medical history of CAD, peripheral 
arterial disease s/p
aortobifemoral bypass, bilateral fem pop bypasses, R fem 
endarterectomy, and R BKA
(___) complicated by an episode of stump ischemia requiring an 
additional femoral endarterectomy and R iliac stent. She 
presents to the ED with 3 days of cool and painful right BKA 
stump site. A CTA was performed, which demonstrated recurrent
occlusion of her right iliac limb with minimal flow down her 
profunda via collaterals from the inferior epigastric. The 
patient was heparinized, and went to the OR with Vascular 
Surgery for an urgent right femoral exposure with thrombectomy 
on ___. The patient ultimately underwent a right iliac limb 
thrombectomy with bovine pericardium patch repair. Procedure was 
uncomplicated with EBL of 700 CC (please see operative note for 
additional details), with Doppler ultrasound of the graft limb 
with a brisk triphasic signal at the end of the case. The 
patient was extubated post-operatively, and transported to the 
PACU in good condition. 

Post-operative labs demonstrated a hematocrit drop from 42.7 to 
30.5, but the patient was doing well, with no tachycardia or 
hypotension and maintaining MAPs greater than 70. After a brief, 
uneventful stay in the PACU, the patient was transferred to the 
floor in good condition. On POD 1, the patient continued to have 
good dopplerable signals through her graft, and her BKA stump 
was improved in colour and warmth. She remained therapeutic on 
her heparin drip. Her Foley catheter was removed, and she voided 
spontaneously. She also began ambulating with her prosthesis, 
but was noted to be short of breath with exertion by her RN. 
Physical Therapy was consulted. On POD 2, she was transitioned 
from the heparin drip to Eliquis 5 mg BID, which she will remain 
on for the rest of her life, given her history of recurrent 
thrombotic events. Her systolic blood pressure was elevated to 
the 150s, which improved to the 130s after restarting her home 
losartan and HCTZ. 

On POD 3, she was evaluated by Physical Therapy, who cleared her 
for discharge to home with assistance from her sister and with a 
rolling walker. She was hypertensive while working with ___, with 
SBP 180s-190s. She had previously been prescribed amlodipine at 
home, but said she had discontinued it as her blood pressures 
had been in target prior to this admission. She was started back 
on her home amlodipine 2.5 mg daily, with improvement in her SBP 
to 130s. She was deemed ready for discharge to home with ___ for 
removal of her Prevena vac (on POD 5) and blood pressure checks. 


On the day of discharge, the patient was doing well, afebrile 
with stable vital signs. She was tolerating a regular diet, 
voiding spontaneously, and passing flatus without issue. Her 
pain was well-controlled on oral oxycodone-acetaminophen. She 
was ambulating with her prosthetic and a rolling walker. The 
patient received discharge instructions, and will follow up with 
Dr. ___ in 1 month. The staples from her right groin 
surgical site may be removed about 2.5 weeks after discharge by 
her primary care provider or ___ local surgeon in her home of 
___. If her blood pressure remains elevated with SBP > 140 
on ___ checks, she should follow up with her primary care 
provider for adjustment of her anti-hypertensive regimen. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
2. Aspirin 81 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q6H 
6. Atorvastatin 80 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Endocet (oxyCODONE-acetaminophen) ___ mg oral Q4H:PRN pain 

9. amLODIPine 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO/NG BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*5 
2.  Albuterol Inhaler 2 PUFF IH Q6H  
3.  ALPRAZolam 0.5 mg PO QHS:PRN anxiety  
4.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO DAILY  
7.  Endocet (oxyCODONE-acetaminophen) ___ mg oral Q4H:PRN 
pain  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Losartan Potassium 50 mg PO DAILY  
10.  Metoprolol Succinate XL 50 mg PO DAILY  
11.Rolling walker
Diagnosis: ___
Prognosis: Good 
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute thrombosis of right iliac limb of prior aortobifemoral 
bypass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after surgery 
on your leg to remove a blood clot. This surgery was done to 
improve blood flow to your leg. You tolerated the procedure well 
and are now ready to be discharged from the hospital. Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery.

Vascular Leg Surgery Discharge Instructions

What to except:

• It is normal feel tired for ___ weeks after your surgery
• It is normal to have leg swelling. Keep your leg elevated as 
much as possible.  This will decrease the swelling. 
• Your leg will feel tired and sore.   This usually passes 
within a few weeks.
• Your incision will be sore, slightly raised, and pink.  Any 
drainage should decrease or stop with in the first 2 weeks. 
• If you are home, you will likely receive a visit from a 
Visiting Nurse ___.  Members of your health care team will 
discuss this with you before you go home.   

Medications:
• Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
• It is very important that you take Aspirin every day!  You 
should never stop this medication before checking with your 
surgeon

Pain Management:
• It is normal to feel some discomfort/pain following surgery.  
This pain is often described as “soreness”. 
• You may take Tylenol (acetaminophen ) as needed for pain.   
You will also receive a prescription for stronger pain medicine, 
 if the Tylenol doesn’t work, take prescription medicine. 
• Narcotic pain medication can be very constipating, please also 
take a stool softner such as Colace.   If constipation becomes a 
problem, your pharmacist can suggest additional over the counter 
medications. 
• Your pain medicine will work better if you take it before your 
pain gets to severe. 
• Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 


Activity:
• Do not drive until your surgeon says it is okay.  In general, 
driving is not allowed until
-the staples in your leg have been taken out
-your leg feels strong
-you have stopped taking pain medication and feel you could 
respond in an emergency
• Walking is good because it helps your muscles get stronger and 
improves blood flow. Start with short walks.  If you can, go a 
little further each time, letting comfort be your guide.  
• Try not to go up and downstairs too much in the first weeks.  
Use stairs only once or twice a day until your incision is fully 
healed and you are back to your usual strength.
• Avoid things that may constrict blood flow or put pressure on 
your incision, such as tight shoes, socks or knee highs.
• Do not take a tub bath or swim until your staples are removed 
and your wound is healed. 
• When you sit, keep your leg elevated to reduce swelling.
• If swelling in your leg is getting worse, lie down with your 
leg up on a pillows. If your swelling continues, please call 
your surgeon. You may be instructed to use special elastic 
bandages or stockings.
• Try not to sit in the same position for a long while.  For 
example, ___ go on a long car ride. 
• You may go outside.  But avoid traveling long distances until 
you see your surgeon at your next visit. 
• You may resume sexual activity after your incisions are well 
healed.

Your incision

• Your incision may be slightly red around the stitches or 
staples.  This is normal.
• It is normal to have a small amount of clear or light red 
fluid coming from your incision.
This will decrease and stop in a few days.  If it does not stop, 
or if you have a lot of fluid coming out., please call your 
surgeon.
• You may shower 48 hours after your surgery.  Do not let the 
shower spray right on the incision,  Let the soapy water run 
over the incision, then rinse.  Gently pat the area dry.  Do not 
scrub the incision,  Do not apply ointment or lotions to the 
incision.
• You do not need to cover the incision if there is no drainage, 
 If there is a small amount of drainage, put a small sterile 
gauze or Bandaid over the incison.
• It is normal to feel a firm ridge along the incision,  This 
will go away as your wound heals. 
• Avoid direct sun exposure to the incision area for 6 months.  
This will help keep the scar from becoming discolored.
• Over ___ months, your incision will fade and become less 
prominent.

Diet and Bowels
• It is normal to have a decreased appetite.  Your appetite will 
return over time.   Follow a well-balanced, health healthy diet, 
without too much salt and fat. 
• Prescription pain medicine might make you constipated.  If 
needed, you may take a stool softener (such as Colace) or gentle 
laxative (ask your pharmacist for recommendations).
Drinking more fluid may also help.
• If you go 48 hours without a bowel movement, or having pain 
moving your bowels, call your primary care physician.

 
Followup Instructions:
___